US04163008
2,4-Dimethyl-3-(2-hydroxyethylthiomethyl)-6-t-butylphenol.
This material was prepared according to the procedure of Example III using 2,4-dimethyl-3-chloromethyl-6-t-butylphenol (160.8 g, 0.71 m), 2-mercaptoethanol (52.5 g, 0.71 m), potassium carbonate (110.4 g, 0.8 m), potassium iodide (5.0 g), and methyl isobutyl ketone (500 ml). Work-up afforded a dark colored oil. This material can be distilled under a very good vacuum. The nmr spectrum was consistent with the desired structure.

reactant | 2,4-dimethyl-3-chloromethyl-6-t-butylphenol | 160.8 g | CC1=C(C(=CC(=C1CCl)C)C(C)(C)C)O | C13H19ClO
reactant | 2-mercaptoethanol | 52.5 g | SCCO | C2H6OS
reactant | potassium carbonate | 110.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 5.0 g | [I-].[K+]
solvent | methyl isobutyl ketone | 500 ml | C(C(C)C)C(=O)C | C6H12O
product | 2,4-Dimethyl-3-(2-hydroxyethylthiomethyl)-6-t-butylphenol | CC1=C(C(=CC(=C1CSCCO)C)C(C)(C)C)O | C15H24O2S
